US05527791
5-Nitro-2-thiophenecarboxylic acid
2-Thiophenecarboxylic acid (6.4 g, 50 mM) was suspended in acetic anhydride (15 ml) and fuming nitric acid (16 ml) in glacial acetic acid (25 ml) added slowly over 1 hour with stirring, while keeping the temperature of the reaction mixture below 30° C. The reaction mixture was stirred at ambient temperature for 2 hours. The product was purified by subjecting to chromatography (470 ml) on HP20SS resin using methanol/(water +1% acetic acid): as eluant. The pure title compound was obtained together with a mixture of 4- and 5-nitrothiophene-2-carboxylic acid.

reactant | 2-Thiophenecarboxylic acid | 50 mM, 6.4 g | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | nitric acid | 16 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 5-Nitro-2-thiophenecarboxylic acid | [N+](=O)([O-])C1=CC=C(S1)C(=O)O | C5H3NO4S
